US09102673B2
Step 7: 1-(tert-butoxycarbonyl)-7-chloro-3-{2-[4-(trifluoromethoxy)phenoxy]ethyl}-1H-pyrrolo[2,3-c]pyridine-2-carboxylic acid
To a solution of 1-tert-butyl 2-ethyl 7-chloro-3-{2-[4-(trifluoromethoxy)phenoxy]ethyl}-1H-pyrrolo[2,3-c]pyridine-1,2-dicarboxylate (33 mg, 0.06 mmol) in THF (1 mL) was added EtOH (0.2 mL)m and water (0.2 mL). Solid LiOH (30 mg, 1.2 mmol) was then added in a single portion. After 2.5 h, quenched with 5% potassium bisulfate until acidic (˜pH 3) and extracted with Et2O and then EtOAc. The combined organic layer was dried over MgSO4, filtered, and concentrated in vacuo to yield the title compound (30 mg). LRMS (ESI) calc (M+H)+=501.1. found 501.2.

reactant | 1-tert-butyl 2-ethyl 7-chloro-3-{2-[4-(trifluoromethoxy)phenoxy]ethyl}-1H-pyrrolo[2,3-c]pyridine-1,2-dicarboxylate | 0.06 mmol, 33 mg | ClC=1N=CC=C2C1N(C(=C2CCOC2=CC=C(C=C2)OC(F)(F)F)C(=O)OCC)C(=O)OC(C)(C)C | C24H24ClF3N2O6
reactant | EtOH | 0.2 mL | CCO | C2H6O
reactant | water | 0.2 mL | O | H2O
reactant | LiOH | 1.2 mmol, 30 mg | [Li+].[OH-]
solvent | THF | 1 mL | C1CCOC1 | C4H8O
product | 1-(tert-butoxycarbonyl)-7-chloro-3-{2-[4-(trifluoromethoxy)phenoxy]ethyl}-1H-pyrrolo[2,3-c]pyridine-2-carboxylic acid | 30 mg | C(C)(C)(C)OC(=O)N1C(=C(C=2C1=C(N=CC2)Cl)CCOC2=CC=C(C=C2)OC(F)(F)F)C(=O)O | C22H20ClF3N2O6
